US07199243B2
A mixture of 3-[3-(1-ethoxycarbonyl-1-methyl-ethoxy)-4-methyl-phenyl]-piperidine-1-carboxylic acid 4-trifluoromethyl-benzyl ester (156 mg, 0.31 mmol), potassium carbonate (85 mg, 0.62 mmol), methanol (10 mL) and water (2 mL) was heated at reflux for 3 h, cooled to room temperature and concentrated under reduced pressure. The resulting residue was taken up in water (50 mL), acidified with 1N aqueous hydrochloric acid and extracted with ethyl acetate (2×50 mL). The combined organic extracts were washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, filtered, concentrated under reduced pressure to yield 139 mg (94%) of 3-[3-(1-carboxy-1-methyl-ethoxy)-4-methyl-phenyl]-piperidine-1-carboxylic acid 4-trifluoromethyl-benzyl ester as a white solid.

reactant | 3-[3-(1-ethoxycarbonyl-1-methyl-ethoxy)-4-methyl-phenyl]-piperidine-1-carboxylic acid 4-trifluoromethyl-benzyl ester | 0.31 mmol, 156 mg | FC(C1=CC=C(COC(=O)N2CC(CCC2)C2=CC(=C(C=C2)C)OC(C)(C)C(=O)OCC)C=C1)(F)F | C27H32F3NO5
reactant | potassium carbonate | 0.62 mmol, 85 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 10 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 3-[3-(1-carboxy-1-methyl-ethoxy)-4-methyl-phenyl]-piperidine-1-carboxylic acid 4-trifluoromethyl-benzyl ester | 139 mg, 94% | FC(C1=CC=C(COC(=O)N2CC(CCC2)C2=CC(=C(C=C2)C)OC(C)(C)C(=O)O)C=C1)(F)F | C25H28F3NO5
